US07420001B2
To 200 mg of 4-carbamoyl-3-methyl-benzofuran-2-carboxylic acid ethyl ester (0.81 mmol, 1 eq.) in 5 mL of DMF was added 50 mg of NaH (60% in mineral oil, 1.25 mmol, 1.5 eq) under nitrogen. After 30 min of reaction, iodomethane (0.053 mL, 0.85 mmol, 1 eq) was added to the reaction. The mixture was then heated to 50° C. for 12 h. After work up and column chromatography, a mixture of 3-methyl-4-methylcarbamoyl-benzofuran-2-carboxylic acid ethyl ester and 4-dimethylcarbamoyl-3-methyl-benzofuran-2-carboxylic acid ethyl ester was obtained (76 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.3 (t, J=7.1 Hz, 3 H) 2.8 (d, J=4.5 Hz, 6 H) 4.4 (q, J=7.2 Hz, 2 H) 7.3 (dd, J=7.3, 1.0 Hz, 1 H) 7.5 (dd, J=8.3, 7.3 Hz, 1 H) 7.8 (dd, J=8.5, 0.9 Hz, 1 H).

reactant | 4-carbamoyl-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.81 mmol, 200 mg, 1 eq. | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C(N)=O | C13H13NO4
reactant | NaH | 1.25 mmol, 50 mg, 1.5 eq | [H-].[Na+]
reactant | iodomethane | 0.85 mmol, 0.053 mL, 1 eq | IC | CH3I
reactant | 3-methyl-4-methylcarbamoyl-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C(NC)=O | C14H15NO4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-dimethylcarbamoyl-3-methyl-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C(N(C)C)=O | C15H17NO4
